US07576215B2
N-{3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}-2-(2-CHLOROPHENYL) ACETAMIDE
The title compound was prepared from [4-(3-amino-phenyl)-8-trifluoromethyl-quinolin-3-yl]-phenyl-methanone and 2-chlorophenyl-acetyl chloride according to the procedure of Example 61. MS (ES) m/z 542.8.

reactant | [4-(3-amino-phenyl)-8-trifluoromethyl-quinolin-3-yl]-phenyl-methanone | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H15F3N2O
reactant | 2-chlorophenyl-acetyl chloride | ClC1=C(C=CC=C1)CC(=O)Cl | C8H6Cl2O
product | N-{3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}-2-(2-CHLOROPHENYL) ACETAMIDE | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NC(CC1=C(C=CC=C1)Cl)=O)C(F)(F)F | C31H20ClF3N2O2
